US04446146
(iv) Cis-4-Phenylthiocarbonylmethyl-3-(1-acetoxyethyl)-1-(1-benzyloxycarbonyl-1-triphenylphosphoranylidenemethyl)azetidin-2-one
Cis-4-carboxymethyl-3-(1-acetoxyethyl)-1-(1-benzyloxycarbonyl-1-triphenylphosphoranylidenemethyl)azetidin-2-one (0.61 g) in dry tetrahydrofuran (50 cm3) was treated with triethylamine (0.12 g) in dry tetrahydrofuran (1 cm3), and the solution was cooled to 0° under argon. Diethylphosphorochloridate (0.2 g) in dry tetrahydrofuran (20 cm3) was added dropwise, and the solution was stirred for three hours at room temperature under argon. The solution was treated with sodium phenylthiolate (0.13 g) in dry tetrahydrofuran (10 cm3), and the mixture was stirred at room temperature for one hour. Filtration and evaporation under reduced pressure gave a residue which was chromatographed on silica gel 60 (<230 mesh) eluting with a 1:1 ethyl acetate/60°-80° petroleum ether mixture. This gave cis-4-phenylthiocarbonylmethyl-3-(1-acetoxyethyl)-1-(1-benzyloxycarbonyl-1-triphenylphosphoranylidenemethyl)azetidin-2-one (0.30 g, 43%); νmax (CHCl3) 3000, 1735, 1690 and 1610 cm- 1.

reactant | Cis-4-carboxymethyl-3-(1-acetoxyethyl)-1-(1-benzyloxycarbonyl-1-triphenylphosphoranylidenemethyl)azetidin-2-one | 0.61 g | C(=O)(O)C[C@@H]1[C@@H](C(N1C(=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OCC1=CC=CC=C1)=O)C(C)OC(C)=O | C36H34NO7P
reactant | triethylamine | 0.12 g | C(C)N(CC)CC | C6H15N
reactant | Diethylphosphorochloridate | 0.2 g | C(C)OP(OCC)(=O)Cl | C4H10ClO3P
reactant | sodium phenylthiolate | 0.13 g | C1=CC=C(C=C1)[S-].[Na+]
reactant | tetrahydrofuran | 50 cm3 | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 1 cm3 | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 20 cm3 | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 10 cm3 | O1CCCC1 | C4H8O
product | Cis-4-Phenylthiocarbonylmethyl-3-(1-acetoxyethyl)-1-(1-benzyloxycarbonyl-1-triphenylphosphoranylidenemethyl)azetidin-2-one | C1(=CC=CC=C1)C(=S)C[C@@H]1[C@@H](C(N1C(=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OCC1=CC=CC=C1)=O)C(C)OC(C)=O | C42H38NO5PS
